US05064843
To a solution of 2.5M n-butyllithium in hexane (13.2 ml, 33 mmol) at -78° C. was added diethyl ether (15 ml) followed by a solution of 3-bromopyridine (4.7 g, 30 mmol) in ether (90 ml) over a period of 10 minutes. After 1 hour at -78° C. a solution of (±)-2-methoxycyclohexanone (3.84 g, 30 mmol) in ether (20 ml) was added dropwise during 10 minutes. After 2 hours at -78° C. and 30 minutes at 0° C. the reaction mixture was warmed to 20° C. and then poured onto ice (150 g). The mixture was extracted with ether (2×50 ml) and then the combined organic extracts were extracted with 1N hydrochloric acid (50 ml). This aqueous extract was washed with ether (20 ml) and then treated with 2M sodium hydroxide solution (25 ml) and extracted with ether (3×100 ml). The organic extracts were combined, washed with brine then dried over anhydrous sodium sulphate Concentration in vacuo afforded (±)-2-methoxy-1-(pyrid-3-yl)cyclohexanol (5.0 g, 24 mmol) as a 4:1 mixture of cis and trans isomers;

reactant | n-butyllithium | 2.5M | C(CCC)[Li]
reactant | hexane | 33 mmol, 13.2 ml | CCCCCC | C6H14
reactant | 3-bromopyridine | 30 mmol, 4.7 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | (±)-2-methoxycyclohexanone | 30 mmol, 3.84 g | COC1C(CCCC1)=O | C7H12O2
solvent | ether | 90 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | diethyl ether | 15 ml | C(C)OCC | C4H10O
product | (±)-2-methoxy-1-(pyrid-3-yl)cyclohexanol | 24 mmol, 5.0 g | COC1C(CCCC1)(O)C=1C=NC=CC1 | C12H17NO2
